US04665174
Into the same flask as used in Example 1, 2-n-pentyl-3-hydroxy-3-methyl-4-cyclopentenone (0.1 mol; 1 part), n-propanol (5 parts) and p-toluenesulfonic acid (1/20 part) were charged, and the mixture was stirred at a temperature of 40° to 70° C. for 5 hours. After completion of the reaction, the mixture was treated in the same manner as in Example 25 to obtain 2-n-pentyl-3-methyl-4-n-propoxy-2-cyclopentenone. Yield, 96%. nD19 1.4792.

reactant | 2-n-pentyl-3-hydroxy-3-methyl-4-cyclopentenone | 0.1 mol | C(CCCC)C1C(C=CC1(C)O)=O | C11H18O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-propanol | C(CC)O | C3H8O
product | 2-n-pentyl-3-methyl-4-n-propoxy-2-cyclopentenone | C(CCCC)C=1C(CC(C1C)OCCC)=O | C14H24O2
